US05610195
b) 3-(N-BOC-amino)-butan-1-ol
A solution of 18.33 g (0.084 mol) of di-tert-butyl dicarbonate in 50 ml of methylene chloride is added dropwise to a solution of 7.13 g (0.08 mol) of 3-aminobutan-1-ol [Chem. Ber. 91, 2383 (1958)] in 50 ml of methylenchloride and the mixture is stirred at room temperature for 22 hours. The reaction mixture is then evaporated and the residue obtained as an oil is purified by means of flash chromatography on silica gel using methylene chloride. After evaporation of the product-containing fractions, the title compound is obtained as an oil, Rf value=0.54 (silica gel/methylene chloride:methanol (9:1)).

reactant | di-tert-butyl dicarbonate | 0.084 mol, 18.33 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-aminobutan-1-ol | 0.08 mol, 7.13 g | NC(CCO)C | C4H11NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylenchloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(N-BOC-amino)-butan-1-ol | C(=O)(OC(C)(C)C)NC(CCO)C | C9H19NO3
